US07902401B2
(2R)—N-benzyl-3-(difluoromethoxy)-2-[(methylsulfonyl)amino]propanamide
A solution of (2R)-2-amino-N-benzyl-3-(difluoromethoxy)propanamide (113 mg, 0.46 mmol) in ethyl acetate was cooled in an ice bath. To the cooled solution was added triethylamine (139 mg, 1.38 mmol) followed by methanesulfonylchloride (63 mg, 0.55 mmol). The reaction mixture was stirred for 15 minutes and then quenched with water, extracted with ethyl acetate and washed with brine. The organic layer was dried, concentrated and triturated with diethyl ether to give the product (33 mg, 22%) as a white solid. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.31 (m, 5H), 6.73 (br, 1H), 6.24 (t, 1H), 5.21 (d, 1H), 4.48 (d, 2H), 4.21 (m, 3H), 3.01 (s, 3H)

reactant | (2R)-2-amino-N-benzyl-3-(difluoromethoxy)propanamide | 0.46 mmol, 113 mg | N[C@@H](C(=O)NCC1=CC=CC=C1)COC(F)F | C11H14F2N2O2
reactant | triethylamine | 1.38 mmol, 139 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 0.55 mmol, 63 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)—N-benzyl-3-(difluoromethoxy)-2-[(methylsulfonyl)amino]propanamide | 33 mg, 22% | C(C1=CC=CC=C1)NC([C@@H](COC(F)F)NS(=O)(=O)C)=O | C12H16F2N2O4S
